US07994185B2
2,5-Difluoro-N-[2-fluoro-5-(2-(1-methylethyl)-5-{2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)phenyl]benzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (0.10 g, 0.19 mmol) and 2,2,6,6-tetramethyl-4-piperidinamine (0.30 g, 1.9 mmol) the title compound was obtained (0.035 g, 0.054 mmol, 29% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.88 (s, 1H), 8.95-8.72 (m, 1H), 8.20 (d, J=4.9 Hz, 1H), 7.95-7.72 (m, 1H), 7.72-7.20 (m, 6H), 6.43-6.20 (m, 1H), 2.05 (d, J=12.8 Hz, 2H), 1.75-1.27 (m, 22H). MS (ESI): 645 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.19 mmol, 0.10 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C22H16ClF3N4O2S2
reactant | 2,2,6,6-tetramethyl-4-piperidinamine | 1.9 mmol, 0.30 g | CC1(NC(CC(C1)N)(C)C)C | C9H20N2
product | 2,5-Difluoro-N-[2-fluoro-5-(2-(1-methylethyl)-5-{2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)phenyl]benzenesulfonamide | 29% yield | FC1=C(C=C(C=C1)F)S(=O)(=O)NC1=C(C=CC(=C1)C=1N=C(SC1C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C)C(C)C)F | C31H35F3N6O2S2
